US09063126B2
1-(4-bromobenzyl)-1-(4-fluorophenyl)hydrazine
A flask containing tetrahydrofuran (2.0 mL) was charged with sodium amide (253 mg, 6.15 mmol; Aldrich) and chilled to 0° C. (4-Fluorophenyl)hydrazine hydrochloride (500 mg, 3.08 mmol; Aldrich) was added in portions. After 5 minutes the solid had completely dissolved and the ice bath was removed. Stirring was continued for 1 hour, then the solution was chilled again in an ice bath and 1-(bromomethyl)-4-bromobenzene (845 mg, 3.38 mmol; Aldrich) was added dropwise. After 30 minutes the ice bath was removed and the reaction was heated to 50° C. overnight. The mixture was diluted with water (5 mL) and extracted with dichloromethane (2×10 mL). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo to afford the title product which was carried on without further purification: LC/MS (DCI/NH3) m/z 279 (M+H−NH3)+.

reactant | sodium amide | 6.15 mmol, 253 mg | [NH2-].[Na+]
reactant | (4-Fluorophenyl)hydrazine hydrochloride | 3.08 mmol, 500 mg | Cl.FC1=CC=C(C=C1)NN
reactant | 1-(bromomethyl)-4-bromobenzene | 3.38 mmol, 845 mg | BrCC1=CC=C(C=C1)Br | C7H6Br2
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | 1-(4-bromobenzyl)-1-(4-fluorophenyl)hydrazine | BrC1=CC=C(CN(N)C2=CC=C(C=C2)F)C=C1 | C13H12BrFN2
